data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,56,"CC(=O)[O:1][H:2].CCC(C1=C([O-])OC(C)(C)OC1=O)[N:3](C)CC(=O)O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5999,"CO[C:1](C)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1500,"CCCCC1CC1(O)C(C1=CC=CC=C1)[OH:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6272,"COC(=O)C1(C)CCC2(C)CCC3(C)CC(=O)CC4C(CCC(OC(C)=O)C4(C)C)[C:1](=[O:2])[CH:3]([H:4])CC3(C)C2C1.[H:5][Na:6]|((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9757,"CCC(C)[C+:1](C)CC.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,3197,"CC[S+:1](C)[O:2][H:3].C[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4238,"CCC1=CC=C[C:1]([Mg:2][Br])=C1.O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9045,"C=CC(C)=O.CCO.CC[N+:1](CC)(CC)[H:2].CC[N+]1=C(C(C2=CC(OC)=C(OC)C(OC)=C2)[O-:3])SC(CCO)=C1C.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6714,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2C3CC(C)C2[CH:3]=[CH:4]3)C=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3970,"C#C[C:1]1([O:2][S+](C2=CC=CC=C2)C2=CC=CC=C2)C2OC2C[CH:3]1[H:4].FC(F)(F)C(C1=CC=CC=C1)(C(F)(F)F)[O-:5].OC(C1=CC=CC=C1)(C(F)(F)F)C(F)(F)F|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7543,"C1=CC=CC=C1.C1=CC=[NH+]C=C1.CC(=O)CC[C:1](C)=[O:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.IC1=C(C2=CC=CC=C2)OC2=C1C=CC([NH2:3])=C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4570,"C1CCC2=[N:1]CCCN2CC1.CC(=O)NC1=CC=C(S(=O)(=O)NN=N[C:2](C(=O)OC2C(=O)N(CC3=CC=CC=C3)C3=C2C=CC=C3)(C2=CC=CC=C2)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4482,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=S(=O)(O)[O:1][H:2].OC(C1CC(O)C[NH2+]1)=[O:3].OCC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,90,"CC(C)=CCCC(C)=CCCC(C)=CCCC(C)=C[CH2:1][OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7041,"NCC1(O)CC2C=CC1O2.O.O=N[O-:1].O=S(=O)(O)[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3182,"CCO[C:1]1([OH2+:2])C=C(O)C(C)(C)CC1|((1, 2), 2)"
train,pmechdb_split_0,0,2105,"CC(=O)CC=[N+:1](C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6216,"CCC(C)(O)[C:1](C)([H:2])[C:3](C)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,667,"CCCCCOCC1C(O)C[CH:1]([N+:2]2=CC(CCCCC)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8910,"CC(=O)[O-].CC[N:1](CC)CC.COC1=C([N+](=O)[O-])C=CC(N2CC[C:2](=[N+:3]3CCCC(O)C3)[CH:4]([H:5])C2)=C1.O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5179,"C1=CC=[N:1]C=C1.CC(=O)O.CC1(C)C2CC3=[N+:2]([H:3])C(C4=C(F)C=CC=C4)=CC=C3C1C2.O.[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4086,"C1C[CH:1]=[CH:2][C:3](=[O:4])C1.O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7734,"C[Si](C)(C)C[CH:1]=[CH2:2].O=C1N2C(C3=CC=CC=C3)SCC2[CH:3]=[N+:4]1CC1=CC=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5481,"CCC([O-])[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,6166,"CCC1=C(N2CCN(CC3([O-:1])CCOCC3)CC2)C=C2C(=O)C3=C(C4=C(C=C(C#N)C=C4)N3)C(C)(C)C2=C1.CC[N+:2](C(C)C)(C(C)C)[H:3].CO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3151,"COC1=CC=C(C[Br:1])C=C1.[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9532,"CCC(C1=CC=CC=C1)[C:1](C1=CC=C(OCCN(C)C)C=C1)=[O:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,944,"CCO[C:1](C)=[O:2].[Na][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5888,"CC(Br)[C:1]([CH:2](C)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3282,"CC[O+:1]=[C:2](C)C.CC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3145,"CCC1C(CCCC[OH+]S(=O)(=O)[CH2-:1])C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.CC[N+:2](CC)(CC)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5813,"C1CNC2=[N:1]CCCN2C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2994,"CNC(=O)C(CC1=C[CH:1]=[C:2]([O-:3])C=C1)NC(C)=O.ClC[N+]12CCN(CC1)CC2.F[B-](F)(F)F.O=P([O-])(O)O.[F:4][I:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7606,"CC(C)[CH:1](C)[Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2449,"C=CC[Si](C)(C)C.CC(C)[O+](C(CCC1=CC=CC=C1)O[Si](C)(C)C)[Si:1](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,4753,"CCC1CC(=O)[CH:1]=[CH:2]C1.CC[S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2757,"CC1=CC2=C(C=C1)[C:1]1([OH+:2][B-](F)(F)F)C3(CCC(C)CCC23)OCC[O:3]1.CC[SiH](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8713,"CCNC(CCC(C)=O)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3412,"COC1=C([O-:1])C2=C(C=C1)CC1N(CCC3=CC=CC=C3)CCC23C=CCCC13O.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7559,"CC(C)(C)OC(=O)[CH2:1][Br:2].CN1C(=O)C2=C(N(C)C1=O)N(N=CC(=O)OC(C)(C)C)[C:3]([O-:4])=[N:5]2|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4613,"C1=CC=[NH+]C=C1.CCC(=O)O[C:1]1([O-:2])C(CC2CCCCC2)(C(=O)CC)N=C(CC)[O:3]1|(2, 1);((1, 3), 3)"
